US07265108B2
6-tert-Butoxypyrazine-2-carboxaldehyde
After adding 7.20 g of AD-mix-β to 60 ml of 50% aqueous tert-butanol, a solution of 1.00 g of 2-tert-butoxy-6-vinylpyrazine in tert-butanol (5 ml) was added and the mixture was stirred overnight at room temperature. Next, 8.40 g of sodium sulfite was added to the reaction solution, the mixture was stirred at room temperature for 1 hour, and then water was added and extraction was performed with ethyl acetate. The organic layer was washed with water and saturated brine and dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. The residue was dissolved in 40 ml of methanol, an aqueous solution of 2.35 g of sodium periodate (20 ml) was added while stirring on ice, and stirring was continued at room temperature for 40 minutes. Water was added to the reaction solution, and extraction was performed with ethyl acetate. The extract was washed with water and saturated brine and dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (solvent: n-hexane/ethyl acetate) to obtain the title compound (954 mg, 96% yield).

reactant | AD-mix-β | 7.20 g | CC[C@H]1CN2CC[C@H]1C[C@@H]2[C@H](C3=C4C=C(C=CC4=NC=C3)OC)OC5=NN=C(C6=CC=CC=C65)O[C@H]([C@H]7C[C@@H]8CCN7C[C@@H]8CC)C9=C1C=C(C=CC1=NC=C9)OC | C48H54N6O4
reactant | 2-tert-butoxy-6-vinylpyrazine | 1.00 g | C(C)(C)(C)OC1=NC(=CN=C1)C=C | C10H14N2O
reactant | sodium sulfite | 8.40 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | water | O | H2O
solvent | tert-butanol | 5 ml | C(C)(C)(C)O | C4H10O
solvent | tert-butanol | 60 ml | C(C)(C)(C)O | C4H10O
product | 6-tert-Butoxypyrazine-2-carboxaldehyde | 954 mg, 96% yield | C(C)(C)(C)OC1=CN=CC(=N1)C=O | C9H12N2O2
